US04788199
The procedure is the same as that used for preparing 2-phenyl-4-quinolinebutanoic acid described in Example 24, but starting with δ-oxo-2-phenyl-4-quinolinepentanoic acid (4.6 g), 98% pure hydrazine hydrate (2.15 g), potassium hydroxide pellets (2.4 g) and diethylene glycol (14 cc). 2-Phenyl-4-quinolinepentanoic acid (4 g) is thereby isolated, its proton NMR spectrum in deuterated chloroform showing the following characteristics:

reactant | 2-phenyl-4-quinolinebutanoic acid | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCCC(=O)O | C19H17NO2
reactant | δ-oxo-2-phenyl-4-quinolinepentanoic acid | 4.6 g | O=C(CCCC(=O)O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C20H17NO3
reactant | hydrazine hydrate | 2.15 g | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | 14 cc | C(COCCO)O | C4H10O3
product | 2-Phenyl-4-quinolinepentanoic acid | 4 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCCCC(=O)O | C20H19NO2
